US04950678
A solution of 2,6-dichloro-4-nitrophenol (5.0 g, 24.0 mmol) in 10 ml of tetrahydrofuran is added dropwise to a suspension of sodium hydride (1.33 g, 50% NaH, 27.6 mmol) in 20 ml of THF. After the addition, stirring is continued for 1 hour at RT and is the mixture is then added dropwise to a solution of phosgene (14.0 g) in 50 ml of methylene chloride at -10°. The mixture is allowed to warm to RT and is purged with N2 to remove excess phosgene. The solvent is stripped and the residue is taken into methylene chloride. The precipitated sodium chloride is filtered and the filtrate is concentrated to give 2,6-dichloro-4-nitrophenyl chloroformate.

reactant | 2,6-dichloro-4-nitrophenol | 24.0 mmol, 5.0 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | sodium hydride | 27.6 mmol, 1.33 g | [H-].[Na+]
reactant | phosgene | 14.0 g | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-4-nitrophenyl chloroformate | ClC(=O)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C7H2Cl3NO4
